US08470866B2
A solution of 3-fluoro-2-methyl-benzoic acid (Aldrich, 10.2 g, 66.17 mmol) in methanol (135 mL) at room temperature was treated with boron trifluoride etherate (15 mL) and was allowed to stir at room temperature. The reaction mixture was then concentrated in vacuo to remove the methanol and then diethyl ether (˜300 mL) was added. The solution was transferred to a separatory funnel and washed with water (200 mL) and a 5% aqueous sodium bicarbonate solution to pH>7.5. The organic layer was then dried over magnesium sulfate and concentrated in vacuo to afford 3-fluoro-2-methyl-benzoic acid methyl ester (9.74 g, 87%) as a light orange colored oil which was used without purification.

reactant | 3-fluoro-2-methyl-benzoic acid | 66.17 mmol, 10.2 g | FC=1C(=C(C(=O)O)C=CC1)C | C8H7FO2
reactant | boron trifluoride etherate | 15 mL | B(F)(F)F.CCOCC
solvent | methanol | 135 mL | CO | CH4O
product | 3-fluoro-2-methyl-benzoic acid methyl ester | 9.74 g, 87% | COC(C1=C(C(=CC=C1)F)C)=O | C9H9FO2
